US05817830
2-(2',2',3',3',4',4',4'-Heptafluoro-1'-trimethylsiloxybutyl)pyrrole is reacted with N-trifluoromethyl-N-nitrosotrifluoromethanesulfonamide under conditions similar to those described by Umemoto, et al., Bull. Chem. Soc. Jpn. 1986, 59, 447. Following the recommended work up procedure, the solvent is removed and the organic residue chromatographed on silica to yield 2-(2',2',3',3',4',4',4'-heptafluoro-1'-trimethylsiloxybutyl)-3-trifluoromethylpyrrole.

reactant | 2-(2',2',3',3',4',4',4'-Heptafluoro-1'-trimethylsiloxybutyl)pyrrole | FC(C(O[Si](C)(C)C)C=1NC=CC1)(C(C(F)(F)F)(F)F)F | C11H14F7NOSi
reactant | N-trifluoromethyl-N-nitrosotrifluoromethanesulfonamide | FC(N(S(=O)(=O)C(F)(F)F)N=O)(F)F | C2F6N2O3S
product | 2-(2',2',3',3',4',4',4'-heptafluoro-1'-trimethylsiloxybutyl)-3-trifluoromethylpyrrole | FC(C(O[Si](C)(C)C)C=1NC=CC1C(F)(F)F)(C(C(F)(F)F)(F)F)F | C12H13F10NOSi
